US04771046
(3) (5R,6S)-2-{2-[(3R)-3-Carbamoyloxypyrrolidin-1-yl]-2-iminoethylthio}-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid
0.183 ml of diisopropylethylamine and 0.218 ml of diphenylphosphoryl chloride were added dropwise to an ice-cooled solution of 348 mg of p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate in 5 ml of anhydrous acetonitrile, and the mixture was stirred for 60 minutes with ice-cooling. A solution of 0.183 ml of diisopropylethylamine and 380 mg of 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylmercaptan hydrochloride in 2.5 ml of dimethylsulfoxide was then added dropwise, and the resulting mixture was stirred for a further 30 minutes with ice-cooling. The reaction mixture was poured into 200 ml of anhydrous ether, and the solvent was decanted off from the gummy material which formed. This material was dissolved in a mixture of 35 ml of tetrahydrofuran and 35 ml of 0.1M phosphate buffer (pH 7.0), and the solution was subjected to catalytic hydrogenation for 3 hours at room temperature in the presence of 0.55 g of 10% palladium-carbon. The hydrogenated solution was filtered over "Celite" (Trade Mark) filter aid, and the filtrate was extracted with 80 ml of ether. The aqueous layer was concentrated under reduced pressure, and the concentrate was subjected to chromatography through a 160 ml of column of "Dowex 50W" (Trade Mark) cation exchange resin (Na+ type), giving 70 mg of the title product from the fraction eluted with water.

reactant | diisopropylethylamine | 0.183 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 0.218 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate | 348 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylethylamine | 0.183 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylmercaptan hydrochloride | 380 mg | Cl.C(N)(=O)O[C@H]1CN(CC1)C(CS)=N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | phosphate | 0.1M, 35 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | palladium-carbon | 0.55 g | [C].[Pd]
solvent | ether | 200 ml | CCOCC | C4H10O
product | (5R,6S)-2-{2-[(3R)-3-Carbamoyloxypyrrolidin-1-yl]-2-iminoethylthio}-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid | 70 mg | C(N)(=O)O[C@H]1CN(CC1)C(CSC=1C[C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)=N | C16H22N4O6S
